US07943609B2
(11S)-11-Methyl-3-[(1E)-3-morpholin-4-yl-3-oxoprop-1-enyl]-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-6-amine
A scintillation vial was charged with palladium acetate (22 mg, 0.10 mmol), tri-o-tolylphosphine (61 mg, 0.20 mmol), anhydrous DMF (1.0 mL) and triethylamine (0.4 mL, 3.0 mmol). The orange homogeneous solution was then added to a solution of (11S)-3-bromo-11-methyl-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-6-amine (333 mg, 1.00 mmol) dissolved in 10 mL of anhydrous DMF followed by the addition of a solution of 4-acryloylmorpholine (169 mg, 1.20 mmol) dissolved in 1.0 mL of anhydrous DMF. The mixture was transferred to a glass vessel and the vessel was purged with N2, sealed and heated to 120° C. for 18 hours. The reaction mixture was cooled and concentrated to dryness under reduced pressure to give a golden solid. The solid was treated with CH2Cl2 and saturated aqueous K2CO3 solution and the layers were separated. The organic layer was concentrated to dryness to give a light-brown solid. Chromatography (SiO2, 0-15% CMA/CHCl3) gave a tan solid that was crystallized from acetonitrile to give 250 mg of the title compound as beige crystals, mp>250° C.

reactant | tri-o-tolylphosphine | 0.20 mmol, 61 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | triethylamine | 3.0 mmol, 0.4 mL | C(C)N(CC)CC | C6H15N
reactant | (11S)-3-bromo-11-methyl-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-6-amine | 1.00 mmol, 333 mg | BrC1=CC=C2C3=C(C(=NC2=C1)N)N=C1N3[C@H](COC1)C | C14H13BrN4O
reactant | 4-acryloylmorpholine | 1.20 mmol, 169 mg | C(C=C)(=O)N1CCOCC1 | C7H11NO2
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
catalyst | palladium acetate | 0.10 mmol, 22 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (11S)-11-Methyl-3-[(1E)-3-morpholin-4-yl-3-oxoprop-1-enyl]-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-6-amine | 250 mg | C[C@H]1COCC=2N1C1=C(C(=NC3=CC(=CC=C13)\C=C\C(=O)N1CCOCC1)N)N2 | C21H23N5O3
